US07932400B2
In a 1000 ml glass vessel equipped with a stirrer, thermometer, a dropping funnel and a distillation unit was charged 290 g (2.0 mol) of 40 wt % aqueous glyoxal solution. And then, triethylamine is added thereto to prepare a basic mixed solution (At this time, the solution had a pH of 9). To the mixed solution was gradually added dropwise a solution comprising 176 g (2.0 mol) of 1,3-dimethylurea and 176 ml of water while maintaining a liquid temperature to 25 to 35° C. After stirring the solution at room temperature for 3 hours, the mixture was reacted by elevating the temperature to 200° C. over 2 hours while removing triethylamine and water under normal pressure by distillation. After completion of the reaction, the obtained reaction mixture was distilled under reduced pressure (105 to 107° C./0.67 to 1.33 kPa) to obtain 217 g (Isolation yield; 85%) of 1,3-dimethylimidazolidin-2,4-dione as a pale yellowish liquid.

reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1,3-dimethylurea | 2.0 mol, 176 g | CNC(=O)NC | C3H8N2O
solvent | water | 176 ml | O | H2O
product | 1,3-dimethylimidazolidin-2,4-dione | 217 g, yield; 85% | CN1C(N(C(C1)=O)C)=O | C5H8N2O2
